US05591752
2-(7-Chloro-6-fluoroquinolin-2-yl)methoxy-8-(2-acetylethyl)-11-(2-tetrahydropyranyloxy)-6,11-dihydrodibenz[b,e]oxepine
0.2 g of (±)-3-buten-2-ol, 1.4 mg of palladium (II) acetate and 0.27 g of triethylamine were added to 1.36 g of 2-(7-chloro-6-fluoroquinolin-2-yl)methoxy-8-iodo-11-(2-tetrahydropyranyloxy)-6,11-dihydrodibenz[b,e]oxepine obtain in Reference example 73 dissolved in 2.5 ml of acetonitrile and the mixture was refluxed under heating for 5.5 hours. After 60 ml of methylene chloride and 60 ml of ice water were added to this reaction mixture, the organic layer was separated, washed with water and dried over anhydrous sodium sulfate. After the solvent was removed, the residue was applied to silica gel column chromatography to obtain 0.76 g of the title compound.

reactant | (±)-3-buten-2-ol | 0.2 g | CC(C=C)O | C4H8O
reactant | triethylamine | 0.27 g | C(C)N(CC)CC | C6H15N
reactant | 2-(7-chloro-6-fluoroquinolin-2-yl)methoxy-8-iodo-11-(2-tetrahydropyranyloxy)-6,11-dihydrodibenz[b,e]oxepine | 1.36 g | ClC1=C(C=C2C=CC(=NC2=C1)COC1=CC2=C(OCC3=C(C2OC2OCCCC2)C=CC(=C3)I)C=C1)F | C29H24ClFINO4
reactant | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | 2.5 ml | C(C)#N | C2H3N
catalyst | palladium (II) acetate | 1.4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-(7-Chloro-6-fluoroquinolin-2-yl)methoxy-8-(2-acetylethyl)-11-(2-tetrahydropyranyloxy)-6,11-dihydrodibenz[b,e]oxepine | 0.76 g | ClC1=C(C=C2C=CC(=NC2=C1)COC1=CC2=C(OCC3=C(C2OC2OCCCC2)C=CC(=C3)CCC(C)=O)C=C1)F | C33H31ClFNO5
